US07652001B2
Hexadecyl Cyclic Cidofovir
The title compound was prepared using the same procedure as described for Example 1 using 1-bromohexadecane and cyclic cidofovir.

reactant | 1-bromohexadecane | BrCCCCCCCCCCCCCCCC | C16H33Br
reactant | cyclic cidofovir | C1[C@@H](OCP(=O)(O1)O)CN2C=CC(=NC2=O)N | C8H12N3O5P
product | Hexadecyl Cyclic Cidofovir | Yield 55% | CCCCCCCCCCCCCCCCOP1(=O)CO[C@H](CO1)CN2C=CC(=NC2=O)N | C24H44N3O5P
